US06576643B2
b) (±)-10,11-Dihydro-3-[2-(6-aminopyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
A solution of ethyl (±)-10,11-dihydro-3-[2-(6-aminopyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (0.030 g, 0.072 mmole) and 1.0 N NaOH (0.14 mL, 0.14 mmole) in MeOH (2 mL) was stirred at RT overnight, then was concentrated. The residue was dissolved in H2O and the pH of the solution was adjusted to 7 with 1.0 N HCl. Concentration and chromatography on a C-18 Bond Elute column (10:9:1 CH3CN/H2O/TFA) gave the title compound (0.013 g): MS (ES) m/e 389 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-3-[2-(6-aminopyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.072 mmole, 0.030 g | NC1=CC=CC(=N1)CCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C26H28N2O3
reactant | NaOH | 0.14 mmole, 1.0 N, 0.14 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | (±)-10,11-Dihydro-3-[2-(6-aminopyridin-2-yl)-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | 0.013 g | NC1=CC=CC(=N1)CCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C24H24N2O3
